US03941795
When in the procedure of Example 1 an appropriate amount of 4-[4-(α-cyclohexyl-α-hydroxybenzyl)piperidino]4'-tert-butylbutyrophenone hydrochloride is substituted for 4-[4-[α-(p-tert-butylphenyl)-α-hydroxybenzyl]piperidino]butyrophenone hydrochloride and the reaction mixture is refluxed for three hours, α-(4-tert-butylphenyl)-4-(α-cyclohexyl-α-hydroxybenzyl)-1-piperidinebutanol is obtained, M.P. 75°-81°C. This compound was converted to the the hydrochloride salt, M.P. 240°-242.5°C. (dec.) by the usual methods.

reactant | 4-[4-(α-cyclohexyl-α-hydroxybenzyl)piperidino]4'-tert-butylbutyrophenone hydrochloride | Cl.C1(CCCCC1)C(C1=CC=CC=C1)(O)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C)(C)C
reactant | 4-[4-[α-(p-tert-butylphenyl)-α-hydroxybenzyl]piperidino]butyrophenone hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)(O)C1CCN(CC1)CCCC(=O)C1=CC=CC=C1
product | α-(4-tert-butylphenyl)-4-(α-cyclohexyl-α-hydroxybenzyl)-1-piperidinebutanol | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(O)C1CCCCC1)O | C32H47NO2
